US09388161B2
A mixture of (S)-2-(6-bromo-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile (0.70 g, 0.17 mmol, 1.00 equiv), bis(pinacolato)diboron (0.216 g, 0.85 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.015 g, 0.02 mmol), potassium acetate (0.042 g, 0.43 mmol) in 1,4-dioxane (10 mL) was stirred overnight at 90° C. The mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), washed with water (20 mL) and brine (20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 25% ethyl acetate-petroleum ether) to afford (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile (0.050 g, 64%) as yellow oil. MS (ESI, pos. ion) m/z 459 [M+H]+.

reactant | (S)-2-(6-bromo-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile | 0.17 mmol, 0.70 g, 1.00 equiv | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=C(C#N)C=CC=C1 | C21H19BrN2O2
reactant | bis(pinacolato)diboron | 0.85 mmol, 0.216 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.43 mmol, 0.042 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.02 mmol, 0.015 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile | 0.050 g, 64% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)B1OC(C(O1)(C)C)(C)C)OC1=C(C#N)C=CC=C1)C | C27H31BN2O4
